US06720324B2
TERT-BUTYL 4-[3-(AMINO)PHENYL]-1,2,3,6-TETRAHYDRO-1-PYRIDINECARBOXYLATE:
A mixture of 2 M aqueous Na2CO3 solution (4.2 mL), tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-1,2,3,6-tetrahydro-1-pyridine-carboxylate (0.500 g, 1.51 mmol), 3-aminophenylboronic acid hemisulfate (0.393 g, 2.11 mmol), lithium chloride (0.191 g, 4.50 mmol) and tetrakis-triphenylphosphine palladium (0) (0.080 g, 0.075 mmol) in dimethoxyethane (5 mL) was heated at reflux temperature for 3 hours, under an inert atmosphere (an initial degassing of the mixture is recommended to prevent the formation of triphenylphosphine oxide). The organic layer of the cooled reaction mixture was separated and the aqueous layer was washed with ethyl acetate (3×). The combined organic extracts were dried and concentrated in vacuo. The crude product was chromatograghed (silica, hexanes:EtOAc:dichloromethane (6:1:1) with 1% added isopropylamine to protect the BOC group from hydrolysis) to give 0.330 g of the desired product in 81% yield:

reactant | Na2CO3 | 2 M, 4.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-1,2,3,6-tetrahydro-1-pyridine-carboxylate | 1.51 mmol, 0.500 g | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | 3-aminophenylboronic acid hemisulfate | 2.11 mmol, 0.393 g | S(=O)(=O)(O)O.NC=1C=C(C=CC1)B(O)O.NC=1C=C(C=CC1)B(O)O
reactant | lithium chloride | 4.50 mmol, 0.191 g | [Cl-].[Li+]
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
product | TERT-BUTYL 4-[3-(AMINO)PHENYL]-1,2,3,6-TETRAHYDRO-1-PYRIDINECARBOXYLATE | 0.330 g, 81% yield | NC=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O2
